US07608639B2
3-{4-[3-Fluoro-5-(2-phenoxy-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid
The title compound is prepare by reacting the compound of 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester with phenol as in Example 45 to afford 0.080 g (28%). 1H NMR (400 MHz, CDCl3); MS (ES+) m/z mass calculated for C29H22O5F4 526, found 527 (M+1, 100%).

reactant | 3-{4-[3-(2-bromo-4-trifluoromethyl-phenoxy)-5-fluoro-phenoxy]-2-methyl-phenyl}-propionic acid ethyl ester | C(C)OC(CCC1=C(C=C(C=C1)OC1=CC(=CC(=C1)F)OC1=C(C=C(C=C1)C(F)(F)F)Br)C)=O | C25H21BrF4O4
reactant | phenol | C1(=CC=CC=C1)O | C6H6O
product | 3-{4-[3-Fluoro-5-(2-phenoxy-4-trifluoromethyl-phenoxy)-phenoxy]-2-methyl-phenyl}-propionic acid | FC=1C=C(OC2=CC(=C(C=C2)CCC(=O)O)C)C=C(C1)OC1=C(C=C(C=C1)C(F)(F)F)OC1=CC=CC=C1 | C29H22F4O5
